US07723333B2
2-Butyl-4-[(2-methoxyethyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 2-methoxyethanamine in a similar manner as described for e.g. Example 6 and 7. 1H NMR (400 MHz, CD3CN): δ 7.55-7.49 (m, 5H), 5.83 (bs, 1H), 3.67 (t, 2H), 3.27 (t, 2H), 3.21 (s, 3H), 3.05-3.00 (m, 2H), 1.80-1.72 (m, 2H), 1.48-1.38 (m, 2H), 0.97 (t, 3H); Mass Spectrum: M+H+ 339.

reactant | 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 2-methoxyethanamine | COCCN | C3H9NO
product | 2-Butyl-4-[(2-methoxyethyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(CCC)N1S(C(=C(C1=O)NCCOC)C1=CC=CC=C1)(=O)=O | C16H22N2O4S
